US07732461B2
5,6-dihydro-4H-cyclopenta[b]thiophene-2-carboxylic acid (commercially available: Matrix Chemicals) (0.5 g, 2.97 mmol) was suspended in dry diethyl ether (16 ml) and treated dropwise with a solution of lithium aluminium hydride (1.0 M solution in diethyl ether, 4.0 ml, 4.0 mol). The mixture was heated to reflux for 3 h and then cooled, treated dropwise with water (1.0 ml), then 1M HCl to dissolve the precipitated white solid. The product was extracted into diethyl ether (3×10 ml), dried over anhydrous magnesium sulphate and evaporated to afford 5,6-dihydro-4H-cyclopenta[b]thien-2-ylmethanol as a white solid (420 mg). This was dissolved in dichloromethane (60 ml) and treated with manganese dioxide (2.0 g). After stirring at room temperature overnight, the mixture was filtered through Kieselguhr and the solvent evaporated to afford the title compound as a yellow oil, (0.295 g, 64%).

reactant | 5,6-dihydro-4H-cyclopenta[b]thiophene-2-carboxylic acid | S1C2=C(C=C1C(=O)O)CCC2 | C8H8O2S
reactant | lithium aluminium hydride | 4.0 mol, 1.0 M, 4.0 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.0 ml | O | H2O
reactant | HCl | 1M | Cl | ClH
solvent | diethyl ether | 16 ml | C(C)OCC | C4H10O
product | 5,6-dihydro-4H-cyclopenta[b]thien-2-ylmethanol | 420 mg | S1C2=C(C=C1CO)CCC2 | C8H10OS
